US07772256B2
To a stirred solution of 2-fluoro-pyridin-3-ylamine (3.0 g, 26.79 mmol) in acetic acid (24 mL), sodium acetate (2.17 g, 26.46 mmol) was added. The reaction mixture was cooled to 0-5° C. and a solution of bromine (1.37 mL, 26.74 mmol) in acetic acid (8 ml) was added dropwise. After 1 hour the reaction mixture was cooled to 0° C., 10% aqueous sodium hydroxide solution was added to adjust the pH ˜5 and the product was extracted with ethyl acetate (200 mL). The organic layer was washed with water, brine, dried over magnesium sulfate and concentrated under reduced pressure. The crude product was purified by flash column chromatography using 20% ethyl acetate in hexane to afford 6-bromo-2-fluoro-pyridin-3-ylamine (3.9 g) as a brown solid. 1H NMR (400 MHz, CDCl3) δ: 7.15 (d, J=7.8 Hz, 1H), 7.00 (dd, J=10.1, 7.8 Hz, 1H), 3.80 (s, 2H). ESMS: m/z 191.32, 193.34 [M+1]+

reactant | 2-fluoro-pyridin-3-ylamine | 26.79 mmol, 3.0 g | FC1=NC=CC=C1N | C5H5FN2
reactant | sodium acetate | 26.46 mmol, 2.17 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 26.74 mmol, 1.37 mL | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 24 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-2-fluoro-pyridin-3-ylamine | 3.9 g | BrC1=CC=C(C(=N1)F)N | C5H4BrFN2
